US05686480
3-(4-Quinolin-2-yl-piperazin-1-ylmethyl)-4,5-dihydro -1H-benzo[g]indazole
A solution of (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide (0.4 g), 1-(quinolin-2-yl)piperazine (0.23 g) and diisopropylethylamine (0.30 cm3) in DMF (10 cm3) was heated under argon at 80° C. for 48 hours. The mixture was cooled, poured into water (50 cm3) and extracted with 10% ethyl acetate-diethyl ether (2×25 cm3). The extracts were dried (MgSO4), filtered and concentrated. Flash column chromatography on silica gel, eluting with 5% methanol-dichloromethane+1% ammonia, removed baseline material. Preparative thin layer chromatography on silica, eluting with 3% methanol-dichloromethane+1% ammonia, gave the title compound, which was crystallised as the oxalate salt from ethanol to give brown granules (0.026 g; 5%), m.p. 154°-155° C. (from EtOH); Found: C, 64.6; H, 5.5; N, 13.7. C25H25N5.1.25(CO2 H)2.0.15(H2O) requires C, 64.7; H, 5.5; N, 13.7%. δH (360 MHz; d6 -DMSO) 2.73 (2H, t, J 7.7, --CH2 --), 2.84 (4H, broad s, 2 x NCH2CH2N), 2.90 (2H, t, J 7.7, --CH2 --), 3.79 (4H, broad s, 2 x NCH2CH2N) 7.18-7.30 (5H, m, 5 of ArH), 7.51-7.59 (2H, m, 2 of ArH), 7.65 (1H, d, J 7.6, 1 of ArH), 7.71 (1H, d, J 7.9, 1 of ArH) and 8.06 (1H, d, J 9.2, 1 of ArH); m/z (CI+ ; NH3) 396 (MH+ ; 40%) and 214 (100).

reactant | (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide | 0.4 g | [I-].N1N=C(C=2CCC3=C(C12)C=CC=C3)C[N+](C)(C)C
reactant | 1-(quinolin-2-yl)piperazine | 0.23 g | N1=C(C=CC2=CC=CC=C12)N1CCNCC1 | C13H15N3
reactant | diisopropylethylamine | 0.30 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 50 cm3 | O | H2O
solvent | DMF | 10 cm3 | CN(C)C=O | C3H7NO
product | 3-(4-Quinolin-2-yl-piperazin-1-ylmethyl)-4,5-dihydro -1H-benzo[g]indazole | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CC1=NNC=2C3=C(CCC12)C=CC=C3 | C25H25N5
